US08957203B2
Step 3: Preparation of 7-fluoro-4-methoxyisoquinolin-1(2H)-one
To a solution of 7-fluoroisoquinolin-1(2H)-one (11 g, 67.4 mmol) in methanol was added iodozobenzenediacetate (21.7 g, 67.4 mmol) followed by methane sulphonic acid (7.78 g, 81 mmol) at room temperature. The reaction mass was heated at reflux for 3 h. The solvent was evaporated and the residue was diluted with cold water. The precipitated solid was filtered and washed with water to get crude compound (11 g, 84%) as light red color solid. 1H NMR (400 MHz, CD3OD): δ ppm 8.06-8.04 (m, 1H), 7.96-7.93 (m, 1H), 7.62-7.54 (m, 2H), 6.74 (s, 1H), 3.89 (s, 3H); MS: MS m/z 194.1 (M++1).

reactant | 7-fluoroisoquinolin-1(2H)-one | 67.4 mmol, 11 g | FC1=CC=C2C=CNC(C2=C1)=O | C9H6FNO
reactant | methane sulphonic acid | 81 mmol, 7.78 g | CS(=O)(=O)O | CH4O3S
reactant | methanol | CO | CH4O
product | 7-fluoro-4-methoxyisoquinolin-1(2H)-one | 11 g, 84% | FC1=CC=C2C(=CNC(C2=C1)=O)OC | C10H8FNO2
